US07223788B2
(R)-Methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]amine
A solution of tert-butyl (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]-carbamate (0.7 g) in dichloromethane (5 ml) was treated with trifluoroacetic acid (3 ml) for 1 hour. The reaction solution was concentrated and the residue was taken up in dichloromethane. After washing with sodium carbonate solution, the organic phase was dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 221.26 (C11H15N3O2); MS (ESI): 222 (M+H+).

reactant | tert-butyl (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]-carbamate | 0.7 g | CN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-Methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]amine | CN[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
